US07514451B2
(3S,4S)-1-Benzyloxycarbonyl-3-bromomethyl-4-fluoropyrrolidine (415 mg), cyclopropylamine (0.91 mL) and acetonitrile (3 mL) were mixed together. The mixture was stirred at 80° C. for 6 hours and was subsequently concentrated under reduced pressure. To the resulting residue, cyclopropylamine (4.55 mL) was added and the mixture was again stirred at 80° C. for 6 hours and was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (15 mL), washed with saturated brine (2×5 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: hexane: ethyl acetate=2:1) to give (3S,4S)-1-benzyloxycarbonyl-3-cyclopropylaminomethyl-4-fluoropyrrolidine as a pale brown oil (239 mg).

reactant | (3S,4S)-1-Benzyloxycarbonyl-3-bromomethyl-4-fluoropyrrolidine | 415 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@@H](C1)F)CBr | C13H15BrFNO2
reactant | cyclopropylamine | 0.91 mL | C1(CC1)N | C3H7N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (3S,4S)-1-benzyloxycarbonyl-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 239 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@@H](C1)F)CNC1CC1 | C16H21FN2O2
